US04186135
112 ml of thionyl chloride, 56 g of 7-nitro-1,4-benzodioxane-5-carboxylic acid were introduced into a 250 ml balloon flask provided with a stirrer, a thermometer and a reflux condenser. The mixture was stirred and 1 ml of dimethylformamide was added with heating. After stirring for one hour at the reflux temperature, the excess of thionyl chloride was removed by distillation under vacuum. 61 g of 7-nitro-1,4-benzodioxane-5-carbonyl chloride were obtained (M.P.: 108° C.; yield: 100%).

reactant | thionyl chloride | 112 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 7-nitro-1,4-benzodioxane-5-carboxylic acid | 56 g | [N+](=O)([O-])C=1C=C(C2=C(OCCO2)C1)C(=O)O | C9H7NO6
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 7-nitro-1,4-benzodioxane-5-carbonyl chloride | 61 g, yield: 100% | [N+](=O)([O-])C=1C=C(C2=C(OCCO2)C1)C(=O)Cl | C9H6ClNO5
